US07902373B2
6-(3-fluorophenyl)-N-(1-pyridazin-3-ylpiperidin-4-yl)nicotinamide was prepared analogous to N-(1-{5-[(2,5-dimethyl-2,5-dihydro-1H-pyrrol-1-yl)carbonyl]pyridin-2-yl}piperidin-4-yl)-6-(3-fluorophenyl)nicotinamide, except 1-(pyridazin-3-yl)piperidin-4-amine was used as R—NH2. M+H=378.3 observed, 378.17 expected.

reactant | N-(1-{5-[(2,5-dimethyl-2,5-dihydro-1H-pyrrol-1-yl)carbonyl]pyridin-2-yl}piperidin-4-yl)-6-(3-fluorophenyl)nicotinamide | CC1N(C(C=C1)C)C(=O)C=1C=CC(=NC1)N1CCC(CC1)NC(C1=CN=C(C=C1)C1=CC(=CC=C1)F)=O | C29H30FN5O2
reactant | 1-(pyridazin-3-yl)piperidin-4-amine | N1=NC(=CC=C1)N1CCC(CC1)N | C9H14N4
product | 6-(3-fluorophenyl)-N-(1-pyridazin-3-ylpiperidin-4-yl)nicotinamide | FC=1C=C(C=CC1)C1=NC=C(C(=O)NC2CCN(CC2)C=2N=NC=CC2)C=C1 | C21H20FN5O
